US09034922B2
9.9 g (145.18 mmol) of imidazole was added to and dissolved in an N,N-dimethylformamide solution (150 mL) of 10 g (58.07 mmol) of 4-methylsulfonylphenol, and then 10.5 g (69.7 mmol) of tert-butyldimethylchlorosilane was added thereto and stirred. After the reaction, brine was added thereto and extracted with ethyl acetate. The organic layer was washed three times with brine, and dried over anhydrous magnesium sulfate. Purifying by silica gel column chromatography (hexane/ethyl acetate=5/1→3/1) gave 15.97 g (55.75 mmol) of tert-butyl-(4-methanesulfonylphenoxy)dimethylsilane (XII-6) (yield 96%). Its physical properties are shown below.

reactant | imidazole | 145.18 mmol, 9.9 g | N1C=NC=C1 | C3H4N2
reactant | 4-methylsulfonylphenol | 58.07 mmol, 10 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | tert-butyldimethylchlorosilane | 69.7 mmol, 10.5 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | tert-butyl-(4-methanesulfonylphenoxy)dimethylsilane | 55.75 mmol, 15.97 g, yield 96% | C(C)(C)(C)[Si](C)(C)OC1=CC=C(C=C1)S(=O)(=O)C | C13H22O3SSi
